US09278950B2
Step 4. 4-Methoxy-3-nitro-6,7-dihydro-5H-cyclopenta[b]pyridine
4-Methoxy-6,7-dihydro-5H-cyclopenta[b]pyridine (2.90 g, 19.4 mmol) was mixed with concentrated sulfuric acid (17.0 g, 173 mmol) at 0° C., then a mixture of potassium nitrate (5.3 g, 52 mmol) in another portion of concentrated sulfuric acid (26.5 g, 270 mmol) was added slowly. The reaction mixture was heated at 80° C. for 4 h. The crude mixture was slowly poured into ice (50 g), and neutralized carefully with 50% NaOH solution to pH 8-9. The resulting mixture was extracted six times with EtOAc. The organic extracts were combined, dried and concentrated under reduced pressure to give the sub-title compound as a brown gum (1.56 g, 41%). LCMS calc. for C9H11N2O3 (M+H)+: m/z=195.3. Found: 195.2.

reactant | 4-Methoxy-6,7-dihydro-5H-cyclopenta[b]pyridine | 19.4 mmol, 2.90 g | COC1=C2C(=NC=C1)CCC2 | C9H11NO
reactant | sulfuric acid | 173 mmol, 17.0 g | S(O)(O)(=O)=O | H2O4S
reactant | potassium nitrate | 52 mmol, 5.3 g | [N+](=O)([O-])[O-].[K+]
reactant | sulfuric acid | 270 mmol, 26.5 g | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | [OH-].[Na+]
product | 4-Methoxy-3-nitro-6,7-dihydro-5H-cyclopenta[b]pyridine | 1.56 g, 41% | COC1=C2C(=NC=C1[N+](=O)[O-])CCC2 | C9H10N2O3
